US09035101B2
Step A: Preparation of methyl 4-[3-[3,5-bis(trifluoromethyl)phenyl]-4,4,4-trifluoro-1-oxo-2-buten-1-yl]-1-naphthalenecarboxylate
A mixture of methyl 4-acetyl-1-naphthalenecarboxylate (5.36 g, 23.5 mmol), 1-[3,5-bis(trifluoromethyl)phenyl]-2,2,2-trifluoroethanone (7.28 g, 23.5 mmol), calcium hydroxide (1.40 g, 18.9 mmol), N,N-dimethylformamide (16 mL) and tert-butyl methyl ether (32 mL) was boiled with provision of the apparatus comprising a ten-plate Oldershaw column and decanter described in Example 1, Step A for removal of the tert-butyl methyl ether/water azeotrope. As the decanter trap contained an amount of tert-butyl methyl ether sufficient to dissolve all of the water formed by the reaction, the condensate in the trap did not separate into layers containing predominately water and predominately tert-butyl methyl ether. Tert-butyl methyl ether was removed by gradually draining the decanter trap until the pot temperature was 85° C. To maintain this temperature, tert-butyl methyl ether was added as needed to compensate for loss of solvent from the apparatus. The total time from beginning heating the reaction mixture to stopping distillation, not including a shutdown period overnight, was about 10 h. During this time period no additional calcium hydroxide was added to the reaction mixture.

reactant | methyl 4-acetyl-1-naphthalenecarboxylate | 23.5 mmol, 5.36 g | C(C)(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC | C14H12O3
reactant | 1-[3,5-bis(trifluoromethyl)phenyl]-2,2,2-trifluoroethanone | 23.5 mmol, 7.28 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(F)(F)F)=O)(F)F | C10H3F9O
reactant | calcium hydroxide | 18.9 mmol, 1.40 g | [OH-].[Ca+2].[OH-]
reactant | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | 32 mL | COC(C)(C)C | C5H12O
product | methyl 4-[3-[3,5-bis(trifluoromethyl)phenyl]-4,4,4-trifluoro-1-oxo-2-buten-1-yl]-1-naphthalenecarboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=CC(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC)C(F)(F)F)(F)F | C24H13F9O3
